US08026234B2
Compound 27: 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-N-(1-methylpiperidin-4-yl)benzamide
The title compound was synthesized from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethylbenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-methylpiperidin-4-amine. The final compound was purified by reverse phase HPLC and basified to give the free base 1H NMR (400 MHz, DMSO-d6) δ ppm 1.14 (t, J=8.0 Hz, 3H) 1.23-1.69 (m, 11H) 1.77 (m, 4H) 1.99 (m, 2H) 2.20 (s, 3H) 2.69 (q, J=7.3 Hz, 2H) 3.75 (s, 1H) 3.97 (t, J=14.2 Hz, 2H) 4.54 (t, J=8.1 Hz, 1H) 7.57-7.81 (m, 3H) 8.12 (d, J=7.8 Hz, 1H) 8.17 (s, 1H) 8.61 (s, 1H). [M+H] calc'd for C28H37F2N7O2, 542. found 542.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethylbenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)CC | C22H25F2N5O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylpiperidin-4-amine | CN1CCC(CC1)N | C6H14N2
product | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethyl-N-(1-methylpiperidin-4-yl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)CC | C28H37F2N7O2
